US05654316
Beta-[2-[(4-chlorophenyl)methylamino]-2-oxoethyl]benzenepropanoic acid
3-Phenylglutaric anhydride (2.0 g) in CH2Cl2 (25 mL) at 0° C. was treated sequentially with 4-chloro-N-methylaniline (1.86 g), triethylamine (1.33 g) and N,N-dimethylaminopyridine (trace). The mixture was stirred at 0° C. for two hours then allowed to warm to room temperature and stirred for 12 hours. The reaction mixture was washed with 1N HCl (2×50 mL) and water (100 mL). The organic layers were dried over MgSO4, filtered and concentrated to afford the title compound (2.7 g).

reactant | 3-Phenylglutaric anhydride | 2.0 g | C1(=CC=CC=C1)C1CC(=O)OC(C1)=O | C11H10O3
reactant | 4-chloro-N-methylaniline | 1.86 g | ClC1=CC=C(NC)C=C1 | C7H8ClN
reactant | triethylamine | 1.33 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | Beta-[2-[(4-chlorophenyl)methylamino]-2-oxoethyl]benzenepropanoic acid | 2.7 g | ClC1=CC=C(C=C1)CNC(CC(CC(=O)O)C1=CC=CC=C1)=O | C18H18ClNO3
